US07157464B2
Synthesis of 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(4-nitro-phenyl)-piperazin-1-yl]ethanone
Title compound was prepared following the HATU mediated coupling protocol P, wherein 1-(4-Nitrophenyl)-piperazine and (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid were used as the coupling components, to give the product as a yellow solid: 1H NMR (DMSO-d6, 400 MHz) 8.05 (d, 2H), 7.01 (d, 2H), 5.38 (s, 2H), 3.62 (m, 6H), 3.52 (m, 2H), 2.19 (s, 3H) ppm; MS (ES) expect M+H=432.1, found=432.0.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(4-Nitrophenyl)-piperazine | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
product | 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(4-nitro-phenyl)-piperazin-1-yl]ethanone | ClC=1C(=NN(C1C)CC(=O)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])C(F)(F)F | C17H17ClF3N5O3
